US07425631B2
3-(3,4-Dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-N-[6-(3-isobutylamino-propyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-propionamide
To a solution of N-[6-(3-aminopropyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide(63 mg, 0.109 mmol) in dry CH2Cl2 (5 mL) was added isobutyraldehyde (10 μL, 0.109 mmol) and HOAc (1 drop). The resulting mixture was stirred at RT under N2 After 1 h, MS showed the formation of imine; NaBH(OAc)3 (46 mg, 0.218 mmol) was then added. The resulting mixture was stirred for 10 min. The reaction mixture was quenched with sat. NaHCO3. The organic layer was dried over MgSO4 and evaporated in vacuo. The crude solid was purified by chromatography on silica gel. Elution with CH2Cl2:MeOH(2M NH3) mixture (95:5) gave final compound. MS m/z: 635.11 (M+H). Calc'd. for C32H38Cl2FN3O3S-634.63.

reactant | N-[6-(3-aminopropyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-3-(3,4-dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-propionamide | 0.109 mmol, 63 mg | NCCCC=1C=C2CCCC(C2=CC1)NC(CC(C1=CC=C(C=C1)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O | C28H30Cl2FN3O3S
reactant | isobutyraldehyde | 0.109 mmol, 10 μL | C(C(C)C)=O | C4H8O
reactant | NaBH(OAc)3 | 0.218 mmol, 46 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
product | 3-(3,4-Dichloro-benzenesulfonylamino)-3-(4-fluoro-phenyl)-N-[6-(3-isobutylamino-propyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-propionamide | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(CC(=O)NC1CCCC2=CC(=CC=C12)CCCNCC(C)C)C1=CC=C(C=C1)F | C32H38Cl2FN3O3S
